US05420132
Under a nitrogen atmosphere, heat at reflux for 3 hours, in the presence of 5 mmol of lithium aluminium hydride, a solution of 2 mmol of 6-hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin in 35 cm3 of diethyl ether. After cooling, hydrolysis, removal of the insoluble mineral compounds by filtration and drying over magnesium sulfate, the compound obtained is purified by chromatography on a column of silica (eluant:petroleum ether/ethyl acetate, 40:60). 6-Hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin -1-ylmethyl}-1,4-benzodioxin is thereby obtained in a yield of 85%.

reactant | lithium aluminium hydride | 5 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin | 2 mmol | OC1=CC2=C(OC(=CO2)C(=O)N2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C26H22F2N2O4
solvent | diethyl ether | 35 cm3 | C(C)OCC | C4H10O
product | 6-Hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin -1-ylmethyl}-1,4-benzodioxin | yield of 85% | OC1=CC2=C(OC(=CO2)CN2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C26H24F2N2O3
